US06660753B2
A mixture of 3-(2-pyridyl)-5-(3-cyano-5-hydroxyphenyl)-1,2,4-oxadiazole (39 mg, 0.15 mmol), potassium carbonate (32 mg, 0.30 mmol) and dimethylcarbamyl chloride (27 μL, 0.30 mmol) in N,N-dimethylformamide (1 mL) was heated in a sealed vial at 140° C. for 2 hours. The reaction was cooled, diluted with dichloromethane, washed with water (3×) and saturated brine, filtered and concentrated. Silica gel chromatography using hexanes:ethyl acetate:dichloromethane 3.5:0.5:4 afforded 3 mg (29%) of 3-(2-pyridyl)-5-(3-cyano-5-(dimethylamino)carbonylphenyl)-1,2,4-oxadiazole: 1H NMR (CDCl3), δ (ppm): 8.85 (d, 1H), 8.40 (s, 1H), 8.29 (s, 1H), 8.22 (d, 1H), 7.89 (m, 1H), 7.73 (s, 1H), 7.48 (dd, 1H), 3.14 (s, 3H), 3.06 (s, 3H).

reactant | 3-(2-pyridyl)-5-(3-cyano-5-hydroxyphenyl)-1,2,4-oxadiazole | 0.15 mmol, 39 mg | N1=C(C=CC=C1)C1=NOC(=N1)C1=CC(=CC(=C1)O)C#N | C14H8N4O2
reactant | potassium carbonate | 0.30 mmol, 32 mg | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylcarbamyl chloride | 0.30 mmol, 27 μL | CN(C(=O)Cl)C | C3H6ClNO
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-(2-pyridyl)-5-(3-cyano-5-(dimethylamino)carbonylphenyl)-1,2,4-oxadiazole | 3 mg, 29% | N1=C(C=CC=C1)C1=NOC(=N1)C1=CC(=CC(=C1)C(=O)N(C)C)C#N | C17H13N5O2
